US07601718B2
5-(4-Methoxy-phenyl)-3-(pyrimidin-2-ylamino)-1,5-dihydro-pyrazolo[4,3-c]pyridazin-6-one (I-17)
To 3-amino-5-(4-methoxy-phenyl)-1,5-dihydro-pyrazolo[4,3-c]pyridazin-6-one (purchased from Bionet, 67.6 mg, 0.2628 mmoles) in N-methylpyrrolidinone (263 uL) was added 2-chloro-pyrimidine (15.1 mg, 0.5 eq). The reaction was stirred for 5 hours at 130° C. to give crude desired product as evidenced by mass spectrometry. The reaction was diluted with methanol (2 ml) and purified by reverse phase chromatography to give 25 mg (28%) of pure 5-(4-methoxy-phenyl)-3-(pyrimidin-2-ylamino)-1,5-dihydro-pyrazolo[4,3-c]pyridazin-6-one (I-17) as a solid. LC/MS: tret=2.13 min, M+H+=336.1.

reactant | 3-amino-5-(4-methoxy-phenyl)-1,5-dihydro-pyrazolo[4,3-c]pyridazin-6-one | 0.2628 mmoles, 67.6 mg | NC1=NNC=2C1=NN(C(C2)=O)C2=CC=C(C=C2)OC | C12H11N5O2
reactant | 2-chloro-pyrimidine | 15.1 mg, 0.5 eq | ClC1=NC=CC=N1 | C4H3ClN2
solvent | N-methylpyrrolidinone | 263 uL | CN1C(CCC1)=O | C5H9NO
solvent | methanol | 2 ml | CO | CH4O
product | 5-(4-methoxy-phenyl)-3-(pyrimidin-2-ylamino)-1,5-dihydro-pyrazolo[4,3-c]pyridazin-6-one | 25 mg, 28% | COC1=CC=C(C=C1)N1N=C2C(=CC1=O)NN=C2NC2=NC=CC=N2 | C16H13N7O2
